US08865732B2
Step 6. 5-(2-(4-fluorophenyl)-5-(pyridin-4-yl)oxazol-4-yl)-3-methoxypyridin-2-amine
A mixture of 4-pyridineboronic acid (113 mg, 0.9 mmol) and 5-(5-bromo-2-(4-fluorophenyl)oxazol-4-yl)-3-methoxypyridin-2-amine (135 mg, 0.4 mmol), and in DME (1.0 mL) and 2.0 M aqueous Na2CO3 (1.0 mL, 2.0 mmol) was sparged with Ar. Tetrakis(triphenylphosphine)palladium(0) (21 mg, 0.018 mmol) was added and the mixture was again sparged with Ar. The reaction was irradiated at 120° C. for 15 min in a microwave reactor. The reaction mixture was diluted with water and extracted with EtOAc (3×). The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography over (SiO2, 100:0-0:100 hexanes-EtOAc). Enriched fractions were concentrated in vacuo and further purified by column chromatography (SiO2, 100:0-80:20 DCM-MeOH) to afford 82 mg of the title compound: LC/MS (m/z): 362.9 (MH+), tR=0.54 min.

reactant | 4-pyridineboronic acid | 0.9 mmol, 113 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | 5-(5-bromo-2-(4-fluorophenyl)oxazol-4-yl)-3-methoxypyridin-2-amine | 0.4 mmol, 135 mg | BrC1=C(N=C(O1)C1=CC=C(C=C1)F)C=1C=C(C(=NC1)N)OC | C15H11BrFN3O2
reactant | Na2CO3 | 2.0 mmol, 2.0 M, 1.0 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 1.0 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.018 mmol, 21 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-(4-fluorophenyl)-5-(pyridin-4-yl)oxazol-4-yl)-3-methoxypyridin-2-amine | 82 mg | FC1=CC=C(C=C1)C=1OC(=C(N1)C=1C=C(C(=NC1)N)OC)C1=CC=NC=C1 | C20H15FN4O2
